US07521457B2
f) 7-amino-2-(2-fluoro-ethyl)-3,3-dimethyl-2,3-dihydro-isoindol-1-one
75 mg (0.188 mmol) 7-dibenzylamino-2-(2-fluoro-ethyl)-3,3-dimethyl-2,3-dihydro-isoindol-1-one are dissolved in 50 ml of methanol and combined with 10 mg palladium on charcoal. The mixture is hydrogenated for 16 h at 5 bar H2 pressure and ambient temperature. Then the catalyst is filtered off and the solvent is eliminated in vacuo.

reactant | 7-dibenzylamino-2-(2-fluoro-ethyl)-3,3-dimethyl-2,3-dihydro-isoindol-1-one | 0.188 mmol, 75 mg | C(C1=CC=CC=C1)N(C=1C=CC=C2C(N(C(C12)=O)CCF)(C)C)CC1=CC=CC=C1 | C26H27FN2O
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on charcoal | 10 mg | [Pd] | Pd
product | 7-amino-2-(2-fluoro-ethyl)-3,3-dimethyl-2,3-dihydro-isoindol-1-one | NC=1C=CC=C2C(N(C(C12)=O)CCF)(C)C | C12H15FN2O
